US07582775B2
E. 1-{4-[1-Ethyl-1-(5-hydroxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one
A solution of 1-{4-[1-ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (0.86 g, 1.96 mmol) in CH2Cl2 (15.0 mL) at 0° C. is treated with BBr3 (3.0 mL, 2.94 mmol). The mixture is stirred for 2 h and quenched with water (10 mL). The aqueous layer is extracted with CH2Cl2 (30 mL). The organic layer is concentrated and purified using silica gel column chromatography (25% EtOAc/Hex) to afford the title compound (0.412 g, 50%).

reactant | 1-{4-[1-ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 1.96 mmol, 0.86 g | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)OC)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C27H34O3S
reactant | BBr3 | 2.94 mmol, 3.0 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15.0 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[1-Ethyl-1-(5-hydroxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 0.412 g, 50% | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O3S
